US08710061B2
To a melt of urea (6.07 g, 101 mmol) (bath temp 150° C.) was added methyl 3-(2-methoxyphenyl)-2-oxocyclopentanecarboxylate (5.3 g, 20.21 mmol) dropwise. After stirring overnight, the reaction was cooled to rt. Added MeOH (30 ml), and broke up the solid mass with a spatula and stirred for 1 h. Added water (600 ml), and stirred for 3 hr. The mixture was added to a Buchner funnel, and washed with water. Dried overnight in the vacuum oven (45° C.) to obtain 7-(2-methoxyphenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diol (4.03 g, 15.60 mmol, 77% yield) as a tan solid. LC-MS (M+H)+=259.1.

reactant | urea | 101 mmol, 6.07 g | NC(=O)N | CH4N2O
reactant | methyl 3-(2-methoxyphenyl)-2-oxocyclopentanecarboxylate | 20.21 mmol, 5.3 g | COC1=C(C=CC=C1)C1C(C(CC1)C(=O)OC)=O | C14H16O4
reactant | MeOH | 30 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | 7-(2-methoxyphenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diol | 15.60 mmol, 4.03 g, 77% yield | COC1=C(C=CC=C1)C1CCC2=C1N=C(N=C2O)O | C14H14N2O3
